US07910592B2
Step B: 2-fluoro-1-isopropenyl-4-methoxybenzene
To a solution of 2-(2-fluoro-4-methoxyphenyl)propan-2-ol (3.89 g, 21.14 mmol) in CH2Cl2 (50 mL) at 0° C., methylsulfonyl chloride (1.95 mL, 25.4 mmol) and triethylamine (6.52 mL, 46.5 mmol) were added. The solution was stirred at 0° C. and then room temperature for 2 h. The solution was diluted with CH2Cl2 (100 mL), washed with water, and dried over Na2SO4. The title compound was obtained as an oil after flash chromatography using EtOAc:hexane=1:9 as the eluant. 1H NMR (CDCl3, 500 MHz) δ 7.25 (t, J=9.0 Hz, 1H), 6.68 (dd, J=8.5, 2.5 Hz, 1H), 6.63 (dd, J=13, 2.5 Hz, 1H), 5.20 (d, J=17.0 Hz, 2H), 3.82 (s, 3H), 2.18 (s, 3H).

reactant | 2-(2-fluoro-4-methoxyphenyl)propan-2-ol | 21.14 mmol, 3.89 g | FC1=C(C=CC(=C1)OC)C(C)(C)O | C10H13FO2
reactant | methylsulfonyl chloride | 25.4 mmol, 1.95 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 46.5 mmol, 6.52 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-1-isopropenyl-4-methoxybenzene | FC1=C(C=CC(=C1)OC)C(=C)C | C10H11FO
